US07662771B2
4-[4-(2-nitro-phenyl)-oxazol-2-yl]-butyric acid methyl ester
Combine 2-bromo-2′-nitroacetophenone (10.4 g, 42.6 mmol) with 4-carbamoyl-butyric acid methyl ester (12.2 g, 84.1 mmol) and heat the neat mixture in a sealed vessel at 120-150° C. for about 4-6 h. Cool the mixture, transfer to a round bottom flask with methanol and concentrate. Partition the residue between water and EtOAc. Dry the combined EtOAc extracts over Na2SO4 and concentrate. Initial chromatography over silica gel (EtOAc/CH2Cl2) followed by a second chromatography over silica gel (Hex/EtOAc) allowed for recovery of 4-[4-(2-nitro-phenyl)-oxazol-2-yl]-butyric acid methyl ester (3.05 g, 25%). MS (ES): (M+1)+ 291.1, 292.2 m/z.

reactant | 2-bromo-2′-nitroacetophenone | 42.6 mmol, 10.4 g | BrCC(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C8H6BrNO3
reactant | 4-carbamoyl-butyric acid methyl ester | 84.1 mmol, 12.2 g | COC(CCCC(N)=O)=O | C6H11NO3
solvent | methanol | CO | CH4O
product | 4-[4-(2-nitro-phenyl)-oxazol-2-yl]-butyric acid methyl ester | COC(CCCC=1OC=C(N1)C1=C(C=CC=C1)[N+](=O)[O-])=O | C14H14N2O5
